US07838674B2
18.a: 3-Methoxycarbonylmethylene-azetidine-1-carboxylic acid tert-butyl ester
3-Oxo-azetidine-1-carboxylic acid tert-butyl ester (1.67 g; 9.7 mmol) and methoxycarbonyl-methylene-triphenylphosphorane (3.42 g; 10.25 mmol) are dissolved in toluene (5 ml), refluxed for 2.5 hours and left over night at room temperature. The precipitate is filtered off, washed with TBME, and the filtrate purified via chromatography (TBME/hexane 2:8>3:7) to yield the title compound as colorless crystals. 1H-NMR (400 MHz; DMSO-d6): 5.90 (m, 1H); 4.71 (bs, 2H); 4.58 (bs, 2H); 3.67 (s, 3H); 1.42 (s, 9H). MS (m/z) ES+: 171 (10; MH+ minus tert-butyl); 57 (100).

reactant | 3-Oxo-azetidine-1-carboxylic acid tert-butyl ester | 9.7 mmol, 1.67 g | C(C)(C)(C)OC(=O)N1CC(C1)=O | C8H13NO3
reactant | methoxycarbonyl-methylene-triphenylphosphorane | 10.25 mmol, 3.42 g | COC(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19O2P
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methoxycarbonylmethylene-azetidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C1)=CC(=O)OC | C11H17NO4
